US04802908
A solution of 3,5-dichloro-1-methyl-2(1H)-pyrazinone (7.16 g, 0.040 mol) in dioxane (120 mL) was treated with a concentrated aqueous solution of ammonia (28%, 16 mL, 0.24 mol). After stirring at room temperature for three days a suspension of solid had formed. The solid was collected, rinsed with a little water, ether, and hexanes and air dried. The product, 3-amino-5-chloro-1-methyl-2(1H)-pyrazinone, was obtained as a white crystalline powder (4.81 g) melting above 250° C.

reactant | 3,5-dichloro-1-methyl-2(1H)-pyrazinone | 0.040 mol, 7.16 g | ClC=1C(N(C=C(N1)Cl)C)=O | C5H4Cl2N2O
reactant | ammonia | 0.24 mol, 16 mL | N | H3N
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 3-amino-5-chloro-1-methyl-2(1H)-pyrazinone | NC=1C(N(C=C(N1)Cl)C)=O | C5H6ClN3O
